US07795267B2
N-(4-Fluorophenyl)-tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
To a solution of 1,1-dimethylethyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate (94 mg, 0.30 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (0.5 mL), and the mixture was stirred at room temperature for 4 hours. The reaction solution was concentrated, and then ethyl acetate was added to the residue. The resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution (50 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue were added tetrahydrofuran (5 mL) and 4-fluorophenyl isocyanate (0.10 g, 0.73 mmol), and the mixture was stirred at 50° C. for 1 hour. The reaction solution was concentrated, and then the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) to obtain the title compound (20 mg, yield 19%) as a diastereomer mixture. Diastereomer ratio (α:β=3:1).

reactant | 1,1-dimethylethyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.30 mmol, 94 mg | O=C1OC(C2N1CCN(C2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C17H22N2O4
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 4-fluorophenyl isocyanate | 0.73 mmol, 0.10 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(4-Fluorophenyl)-tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 20 mg, yield 19% | FC1=CC=C(C=C1)NC(=O)N1CC2N(CC1)C(OC2C2=CC=CC=C2)=O | C19H18FN3O3
